US07056918B2
2-Oxo-1-phenyl-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methoxy-methyl-amide
To a stirred solution of 3-amino-4-phenylamino-benzoic acid (prepared from 3-nitro-4-phenylamino-benzoic acid as described in the general procedure, 2.04 gm, 8.94 mmol) in THF (25 mL) was added carbonyl diimidazole (3.62 gm, 22.34 mmol). After stirring for 1 hour at room temperature, N,O-dimethylhydroxyl amine (1.31 gm, 13.41 mmol) was added in one portion. Stirring was continued at room temperature for an additional 2 hours after which time the reaction was determined to be complete by LC-MS. The THF was removed in vacuo and the residue was diluted with water and extracted with methylene chloride three times. The combined methylene chloride extracts were dried over anhydrous sodium sulfate and concentrated in vacuo to afford 2.23 gm of the title compound as a tan solid which was used without further purification.

reactant | 3-amino-4-phenylamino-benzoic acid | NC=1C=C(C(=O)O)C=CC1NC1=CC=CC=C1 | C13H12N2O2
reactant | 3-nitro-4-phenylamino-benzoic acid | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1NC1=CC=CC=C1 | C13H10N2O4
reactant | carbonyl diimidazole | 22.34 mmol, 3.62 gm | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | N,O-dimethylhydroxyl amine | 13.41 mmol, 1.31 gm | CNOC | C2H7NO
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 2-Oxo-1-phenyl-2,3-dihydro-1H-benzoimidazole-5-carboxylic acid methoxy-methyl-amide | 2.23 gm | CON(C(=O)C1=CC2=C(N(C(N2)=O)C2=CC=CC=C2)C=C1)C | C16H15N3O3
